US06235731B1
2) Synthesis of N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 437.4 mg (1.01 mM) of N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 0.5 ml (6 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 16 hours. After this reaction mixture was concentrated, a small amount of ethanol was added to the residue and the crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.01 mM, 437.4 mg | C1(=CC=CC=C1)CCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H28N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[1-(4-phenylbutan-1-yl)piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H28N4OS.2ClH/c30-25(22-17-21-18-26-23-10-6-11-24(31-22)29(21)23)27-20-12-15-28(16-13-20)14-5-4-9-19-7-2-1-3-8-19;;/h1-3,6-8,10-11,17-18,20H,4-5,9,12-16H2,(H,27,30);2*1H
